US05660851
Acrylic acid, ibuprofen and poly(acrylic acid) (MW 2,000) and (MW 5,000) were purchased from Aldrich. Poly(methacrylic acid-methylmethacrylate) (Eudragit L) was provided by Rhom Pharma (Germany). Thionyl chloride, oxalyl chloride, and acetic anhydride were freshly distilled under nitrogen prior to use. All solvents were analytical grade.

reactant | Acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | ibuprofen | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
product | methacrylic acid methylmethacrylate | C(C(=C)C)(=O)O.COC(C(=C)C)=O | InChI=1S/C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3(2)4(5)6/h1H2,2-3H3;1H2,2H3,(H,5,6)
